US08980879B2
3-bromo-N-(4-fluorophenyl)-5-nitropyridin-2-amine
3-Bromo-2-chloro-5-nitropyridine (3.936 g, 16.58 mmol), 4-fluoroaniline (5.53 g, 49.7 mmol) and dimethylsulfoxide (33.2 mL) were combined and stirred at 120° C. for 1 hour. The reaction mixture was cooled to ambient temperature producing a solid. Precipitation was induced further by the addition of 150 mL of water. The solid was collected by filtration and rinsed with 600 mL of water. The solid was purified by flash chromatography (silica gel, 0 to 20% ethyl acetate in heptanes) and then triturated in 15% ethyl acetate in heptanes to give 4.2 g (81%) of the title compound.

reactant | 3-Bromo-2-chloro-5-nitropyridine | 16.58 mmol, 3.936 g | BrC=1C(=NC=C(C1)[N+](=O)[O-])Cl | C5H2BrClN2O2
reactant | 4-fluoroaniline | 49.7 mmol, 5.53 g | FC1=CC=C(N)C=C1 | C6H6FN
solvent | dimethylsulfoxide | 33.2 mL | CS(=O)C | C2H6OS
product | 3-bromo-N-(4-fluorophenyl)-5-nitropyridin-2-amine | 4.2 g, 81% | BrC=1C(=NC=C(C1)[N+](=O)[O-])NC1=CC=C(C=C1)F | C11H7BrFN3O2
